US07169925B2
Step C4: 3-Amino-6-phenyl-1H-indole-2-carboxylic acid, ethyl ester
Reflux a mixture of 3-amino-1-(ethanoyl)-6-phenyl-1H-indole-2-carboxylic acid ethyl ester (7.3 g, 22.6 mmol) 20% aqueous potassium carbonate (100 mL) and ethanol (100 mL) for 1.75 h. Let the reaction stand at ambient temperature overnight and dilute with water (500 mL). Cool at 0° C. and collect a purple solid. Wash the solid with water and dry at 40° C. under vacuum and obtain 5.7 g of a purple solid. Triturate the solid with dichloromethane (40 mL) filter and wash the solid with dichloromethane and ethyl acetate, and then dry at 40° C. under vacuum to obtain 2.5 g of the title compound as a solid:

reactant | 3-amino-1-(ethanoyl)-6-phenyl-1H-indole-2-carboxylic acid ethyl ester | 22.6 mmol, 100 mL, 7.3 g | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1N)C1=CC=CC=C1)C(C)=O | C19H18N2O3
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | 3-Amino-6-phenyl-1H-indole-2-carboxylic acid, ethyl ester | 5.7 g | NC1=C(NC2=CC(=CC=C12)C1=CC=CC=C1)C(=O)OCC | C17H16N2O2
